US09029409B2
To a cold solution of (6-bromo-2-methylpyrimidin-4-yl)methanol (15 g, 73.9 mmol, Preparation #4) in DCM (300 mL) was added Dess-Martin periodinane (47.0 g, 111 mmol). The resulting suspension was allowed to warm to RT and stirred for about 2 h. The reaction mixture was re-cooled to about 0° C., quenched with sodiumthiosulphate solution (200 mL) and stirred vigorously for about 30 min. The organic layer was separated and washed successively with saturated sodium bicarbonate (2×200 mL), water (1×200 mL) and brine (1×200 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford 6-bromo-2-methylpyrimidine-4-carbaldehyde 11 g (74.1%), 1H NMR (400 MHz, DMSO) δ: 9.88 (s, 1H), 7.96 (s, 1H), 2.73 (s, 3H), IR Neat 1720 (C═O) cm−1

reactant | (6-bromo-2-methylpyrimidin-4-yl)methanol | 73.9 mmol, 15 g | BrC1=CC(=NC(=N1)C)CO | C6H7BrN2O
reactant | Dess-Martin periodinane | 111 mmol, 47.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-2-methylpyrimidine-4-carbaldehyde | 11 g, 74.1% | BrC1=CC(=NC(=N1)C)C=O | C6H5BrN2O
